***********************************************************************
*  (C) Copyright 2014 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD17573Q5B
* Date: 06/23/2014
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS492 - JUNE 2014
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
*****************************************************************************
**********************************************************************
**********************************************************************
*                                                                    *
* CSD17573Q5B   -  PSpice Model for use with OrCAD                   *
*                                                                    *
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S

.SUBCKT	CSD17573Q5B	1	2	3
* PARAMETER (local) DEFINITIONS SECTION
.param	AA		6.995
.PARAM  ptrc1	4.75e-3  
.PARAM  ptrc2	15.00e-6
.PARAM  pwidthP	{AA/0.8*2}
.PARAM  pwidth	{pwidthP*1e6}
.PARAM  perimP	{2.1*pwidthP}
.PARAM  perim	{perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1	10	11	12	12 NMOS W={pwidthP} L=0.5u PS={perimP} PD={perimP}
DBD	8	7	DBD	{AA/11.16}
CBD0  	8  	7	3e-12
RBD0  	8	7	1e10
DDG1  	10	101	DD	{AA/11.16}
DDG2  	11	101	DD	{AA/11.16}
cgd		10	11	100e-12
* Note:  gate oxide capacitance included in NMOS below
LGG	2	5	2.1e-9
cgg	5	11	1e-10
RGG	5	11	0.9
RSB	12	9	RTEMP 1.00e-6
RSS   	9	8	RTEMP 1.00e-6
RSP   	8	6	0.03e-6
LSS   	6	3	0.47e-9
RSL   	6	3	0.5
RDD   	7	10	RTEMP 0.875e-3
RDP   	4	7	0.05e-3
LDD   	1	4	0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 550
+ UA     = 5.0e-9        UB     = 0.0e-19      A0     = 0.9
+ AGS    = 0.0           A1     = 0.0          A2     = 0.9
+ LINT   = 0.055e-6      VOFF   = -0.690       NFACTOR= 1.7
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 3.00          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1.00e-18	 CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -0.80
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = -01.00e-9
+ UB1    = -0.0e-17      
* PROCESS PARAMETERS
+ TOX    = 3.00e-8       XJ     = 3e-7         NCH    = 1.420e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL	DBD		D	(
+ CJO=7000e-12  VJ=0.5        M=0.625
+ TNOM=25       FC=0.5        TT=2e-09
+ XTI=3.3       BV=31         IS=8.0e-11
+ N=1.07        RS=0.375e-3   TRS1=4.0e-3)
.MODEL 	DD		D	(
+ CJO	 = 1.50e-9	VJ= 0.9	M=0.4
+ IS	 = 1e-13	RS= 0.1	TNOM  = 25)
*******************************************************************
.MODEL 	RTEMP	RES	(
+ TC1	 = {ptrc1}		 TC2	= {ptrc2})
*******************************************************************
.ENDS CSD17573Q5B 
*$